US06958344B2
(a) 4,6-Dihydroxy-2-mercapto-5-pyrimidineacetic acid, Ethyl Ester
To a solution of sodium ethoxide [prepared from sodium metal (1.6 g) and ethanol] was added thiourea (5.28 g) and triethyl 1,1,2-ethane tricarboxylate (17 g). The mixture was heated under reflux for 8 hours. The solution was cooled to room temperature and the solid collected by filtration, washed with a little ether. The solid was dissolved in water (100 ml) and the pH adjusted to 6-7 by the addition of hydrochloric acid. No solid was precipitated therefore the solution was lyophilised to give a pink solid (8.1 g)

reactant | sodium ethoxide | 1.6 g | [O-]CC.[Na+]
reactant | thiourea | 5.28 g | NC(=S)N | CH4N2S
reactant | triethyl 1,1,2-ethane tricarboxylate | 17 g | C(CC(=O)OCC)(C(=O)OCC)C(=O)OCC | C11H18O6
product | 4,6-Dihydroxy-2-mercapto-5-pyrimidineacetic acid, Ethyl Ester | 8.1 g | OC1=NC(=NC(=C1CC(=O)OCC)O)S | C8H10N2O4S
